US08835677B2
In one non-limiting reaction scheme, dinitrobenzoic acid may be reacted with about one to about five equivalents of an alkali hydrosulfide in a methanol:water mixture at reflux temperature for about 20 to about 40 minutes to produce an aminonitrobenzoic acid. As is described in the Example below, 2,6-dinitrobenzoic acid may be allowed to react with about three equivalents of sodium hydrosulfide in a methanol:water mixture at reflux temperature for about 30 minutes to produce 2-amino-6-nitrobenzoic acid. In some non-limiting embodiments, three equivalents of sodium hydrosulfide may be reacted with one equivalent of the sodium salt of 2,6-dinitrobenzoic acid in refluxing methanol/water followed by acidification.

reactant | dinitrobenzoic acid | [N+](=O)([O-])C=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H4N2O6
reactant | hydrosulfide | about one to about five equivalents | [SH-]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | aminonitrobenzoic acid | NC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H6N2O4
